US05245027
Diphenylmethyl 7-Phenoxyacetamido-3-[(fluorosulfonyl)oxy]-3-cephem-4-carboxylate
A solution of diphenylmethyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate (2.0 g, 3.8 mmole) in dichloromethane (20 mL) was cooled to -78° C. under an inert atmosphere. N,N-diisopropylethyl amine (0.74 mL, 4.2 mmol, 1.1 eq.) was added dropwise over a 2 minute period. The resulting pale yellow solution was allowed to stir for 5 minutes then treated with fluorosulfonic anhydride (0.77 g, 4.2 mmole, 1.1 eq.). The reaction was allowed to stir for 30 minutes then was quenched by addition of water (10 mL). After warming to ambient temperature, the organic phase was dried over magnesium sulfate and the resulting solution was filtered through a short pad of silica gel. The silica pad was rinsed with ethyl acetate (10 mL) and the combined organic fractions were concentrated to furnish 2.3 g of a pale yellow foam. The crude product was crystallized from diethyl ether to afford 2.2 g (96%) of the title compound as white needles, m.p. 131°-132° C. dec.

reactant | diphenylmethyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate | 3.8 mmole, 2.0 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O6S
reactant | N,N-diisopropylethyl amine | 4.2 mmol, 0.74 mL, 1.1 eq. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | fluorosulfonic anhydride | 4.2 mmole, 0.77 g, 1.1 eq. | FS(=O)(=O)OS(=O)(=O)F | F2O5S2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Diphenylmethyl 7-Phenoxyacetamido-3-[(fluorosulfonyl)oxy]-3-cephem-4-carboxylate | 2.3 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23FN2O8S2
